US05008282
(1) 1,4,5,6,7,8-hexahydro-2-hydroxy-cycloheptimidazole
A solution of 2-Hydroxy-cycloheptimidazole (16.0 g) in methanol was stirred vigorously with platinum oxide (0.2 g) in the hydrogen stream. An off-white suspended solution obtained after 16 hrs, was refluxed and filtered. The insoluble material was extracted again with hot methanol (200 ml) and filtered. The combined filtrate was concentrated in reduced pressure. Obtained yellow powder was washed with ethanol (50 ml) and filtered. 14.6 g of the desired compound was obtained. m.p. 272 ° C./dec.

reactant | 2-Hydroxy-cycloheptimidazole | 16.0 g | OC=1N=C2C(N1)=CC=CC=C2 | C8H6N2O
solvent | methanol | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 1,4,5,6,7,8-hexahydro-2-hydroxy-cycloheptimidazole | 14.6 g | OC1=NC2=C(N1)CCCCC2 | C8H12N2O
